US05543519
1 g of 3-amino-6-benzyloxy-4-methoxymethyl-β-carboline in 32 ml of bromoform is mixed with 0.6 ml of HBr/glacial acetic acid (33%) and 5 g of PGE200. 0.46 ml of isoamylnitrite is added at 9° C. and it is maintained for 30 minutes at this temperature. Then 0.56 g of copper(I) bromide is added to this batch. After heating of the batch to room temperature it is diluted with methylene chloride within one hour and extracted once each with dilute ammonia solution and with water. The organic phase is dried, filtered and concentrated by evaporation. The residue is chromatographed on silica gel with methylene chloride: ethanol=15:1. The corresponding combined fractions are concentrated by evaporation and absorptively precipitated with ethyl acetate/hexane. 0.54 g of 3-bromo-6-benzyloxy-4-methoxymethyl-β-carboline is obtained.

reactant | 3-amino-6-benzyloxy-4-methoxymethyl-β-carboline | 1 g | NC=1N=CC=2NC3=CC=C(C=C3C2C1COC)OCC1=CC=CC=C1 | C20H19N3O2
reactant | HBr | 0.6 ml | Br | BrH
reactant | isoamylnitrite | 0.46 ml | C(CC(C)C)ON=O | C5H11NO2
solvent | bromoform | 32 ml | C(Br)(Br)Br | CHBr3
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | copper(I) bromide | 0.56 g | [Cu]Br
product | 3-bromo-6-benzyloxy-4-methoxymethyl-β-carboline | 0.54 g | BrC=1N=CC=2NC3=CC=C(C=C3C2C1COC)OCC1=CC=CC=C1 | C20H17BrN2O2
